US04232032
A mixture of 6,8-diamino-2,4-bis(trichloromethyl)benzo[1,3]dioxin (1 g.), acetic anhydride (25 ml.) and acetyl chloride (2 ml.) was heated on the steam bath for 10 hours. After cooling, the reaction mixture was evaporated to dryness under reduced pressure, and the residue was triturated with aqueous ethanol. The solid product thus obtained was crystallised from ethanol to give 6,8-bis(diacetylamino)-2,4-bis(trichloromethyl)benzo[1,3]dioxin, m.p. 182°-183° C.

reactant | 6,8-diamino-2,4-bis(trichloromethyl)benzo[1,3]dioxin | 1 g | NC=1C=C(C2=C(C(OC(O2)C(Cl)(Cl)Cl)C(Cl)(Cl)Cl)C1)N | C10H8Cl6N2O2
reactant | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetyl chloride | 2 ml | C(C)(=O)Cl | C2H3ClO
product | 6,8-bis(diacetylamino)-2,4-bis(trichloromethyl)benzo[1,3]dioxin | C(C)(=O)N(C=1C=C(C2=C(C(OC(O2)C(Cl)(Cl)Cl)C(Cl)(Cl)Cl)C1)N(C(C)=O)C(C)=O)C(C)=O | C18H16Cl6N2O6
